US05491237
A 4-necked 5-L round-bottom flask is equipped with a mechanical stirrer and water-cooled condenser. Under nitrogen, the flask is charged with 9-chloromethyl-7-oxo-2,3,6,7-tetrahydro[1,4 ]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester (360 g, 1.16 mol), as prepared above, as a suspension in phosphorus oxychloride (1.8 kg). The mixture is heated to reflux generating a black solution. After being heated at reflux for 20 h, the reaction mixture is allowed to cool to ambient temperature and transferred to a 25-L separatory funnel containing 18 L of ice water. After being stirred vigorously for 1.5 h, the precipitate is collected on a Buchner funnel, washed with water (3 L) and dried in vacuo. at 50° C. yielding 7-chloro-9-chloromethyl-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester as a dark crystalline solid: mp 130°-132° C. 1H NMR (CDCl3, 200 MHz) δ4.05 (s, 3 H), 4.42 (s, 4H), 4.81 (s, 2H), 7.50 (s, 2H). Elemental analysis: Calculated for C14H11Cl2NO4 : C 51.24, H 3.38, N 4.27. Found: C 51.10, H 3.34, N 4.33.

reactant | water | O | H2O
reactant | 9-chloromethyl-7-oxo-2,3,6,7-tetrahydro[1,4 ]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester | 1.16 mol, 360 g | COC(=O)C=1C(NC=2C=C3C(=CC2C1CCl)OCCO3)=O | C14H12ClNO5
reactant | phosphorus oxychloride | 1.8 kg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-9-chloromethyl-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester | COC(=O)C=1C(=NC=2C=C3C(=CC2C1CCl)OCCO3)Cl | C14H11Cl2NO4
